US05686424
Using the procedure described in Example 5, a solution of L-proline-L-isoleucine benzylamide (167 mg, 0.52 mmol), and triethylamine (367 uL, 5.0 eq) in THF (2 mL), was treated with 209 mg (1.2 eq) of 1-chloro-2-oxo-2-tricyclo[3.3.1.0 3,7 ]non-3-yl-ethane (prepared from 3-noradamantanecarboxylic acid using the procedure described in example 1) to provide 181 mg of L-isoleucine, N-[1-(2-oxo-2-tricyclo[3.3.1.0 3,7 ]non-3-yl-ethyl)-L-prolyl] benzylamide as a colorless residue.

reactant | L-proline L-isoleucine benzylamide | 0.52 mmol, 167 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | triethylamine | 367 uL, 5.0 eq | C(C)N(CC)CC | C6H15N
reactant | 1-chloro-2-oxo-2-tricyclo[3.3.1.0 3,7 ]non-3-yl-ethane | 209 mg, 1.2 eq | ClCC(C12CC3CC2CC(C1)C3)=O | C11H15ClO
reactant | 3-noradamantanecarboxylic acid | C1C2CC3CC1CC3(C2)C(=O)O | C10H14O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | L-isoleucine, N-[1-(2-oxo-2-tricyclo[3.3.1.0 3,7 ]non-3-yl-ethyl)-L-prolyl] benzylamide | 181 mg | O=C(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)C12CC3CC2CC(C1)C3 | C29H41N3O3
